US07018997B2
2-Formyl-5-methylimidazo[2,1-b]-benzthiazole was prepared according to the procedure outlined in Example 1, (Step 3). Starting from 5-methyl imidazo[2,1-b]-benzthiazole-2-methanol (2.0 g 9.1 mmol) in methylene chloride/DMF(300 mL: 50 mL) and active MnO2 (12 g, excess), 700 mg (35% Yield) of the aldehyde derivative was isolated as brown solid. (M+H) 217.

reactant | 5-methyl imidazo[2,1-b]-benzthiazole-2-methanol | 9.1 mmol, 2.0 g | CC1=CC=CC2=C1N1C(S2)=NC(=C1)CO | C11H10N2OS
solvent | methylene chloride DMF | 300 mL | C(Cl)Cl.CN(C)C=O
solvent | MnO2 | 12 g | O=[Mn]=O
product | 2-Formyl-5-methylimidazo[2,1-b]-benzthiazole | C(=O)C=1N=C2SC3=C(N2C1)C(=CC=C3)C | C11H8N2OS
